US07947738B2
(16-a) Ethyl 2-methyl-3-oxohept-6-enoate
Ethyl 2-methyl-3-oxobutanoate (10 mL, 70.7 mmol) was added dropwise to an anhydrous tetrahydrofuran suspension of sodium hydride (2.83 g, 74.2 mmol) with stirring under ice cooling. The mixture was stirred for 15 minutes in this bath. Then, n-butyllithium (1.59 M hexane solution, 45.3 mL, 72.1 mmol) was added dropwise thereto, and the mixture was further stirred for 30 minutes. Then, allyl bromide (6.73 mL, 77.7 mmol) was added dropwise thereto. After removal of the ice bath, the mixture was stirred for 2 hours, and the reaction was then terminated by pouring dilute hydrochloric acid to the reaction solution. The reaction solution was subjected to extraction with ethyl acetate. The organic layer was washed with water, saturated aqueous sodium bicarbonate, and saturated saline and dried over anhydrous magnesium sulfate, and the solvent was then distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain the compound of interest as a pale yellow oil (7.67 g).

reactant | Ethyl 2-methyl-3-oxobutanoate | 70.7 mmol, 10 mL | CC(C(=O)OCC)C(C)=O | C7H12O3
reactant | sodium hydride | 74.2 mmol, 2.83 g | [H-].[Na+]
reactant | n-butyllithium | 72.1 mmol, 1.59 M, 45.3 mL | C(CCC)[Li]
reactant | allyl bromide | 77.7 mmol, 6.73 mL | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Ethyl 2-methyl-3-oxohept-6-enoate | 7.67 g | CC(C(=O)OCC)C(CCC=C)=O | C10H16O3
